US08114877B2
b) (1R,2S,3R,5S)-3-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol
This compound is prepared from ((R)-1-{6-(2,2-diphenyl-ethylamino)-9-[(1R,2S,3R,4S)-4-(4-ethyl-[1,2,3]triazol-2-yl)-2,3-dihydroxy-cyclopentyl]-9H-purin-2-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester (step a) using a procedure analogous to that of (1R,2S,3R,5S)-3-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol. (Intermediate FB, second step b). MS (ES+) m/e 595.40 (MH+).

reactant | ((R)-1-{6-(2,2-diphenyl-ethylamino)-9-[(1R,2S,3R,4S)-4-(4-ethyl-[1,2,3]triazol-2-yl)-2,3-dihydroxy-cyclopentyl]-9H-purin-2-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=N1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H46N10O4
reactant | (1R,2S,3R,5S)-3-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-pyrazol-1-yl)-cyclopentane-1,2-diol | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H39N9O2
product | (1R,2S,3R,5S)-3-[2-((R)-3-amino-pyrrolidin-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-ethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=N1)CC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H38N10O2
